US05733922
Initially, a solution of 9.1 g of 2-dimethylaminobenzylchloride hydrochloride in 50 mL of EtOH was added to a solution of 7 g of 5,5-dimethyl-2,4-dithiohydantoin in 100 mL of ethanol (EtOH). The reaction mixture was stirred for 1.5 hour at the room temperature and concentrated in vacuo. To the residue, there was added 100 mL of chloroform (CHCl3). The residue was then washed with an aqueous solution of potassium carbonate (CaCO3), dried over magnesium sulfate (MgSO4), and concentrated in vacuo. The residue was chromatographed on a column of silica gel (CHCl3). From the earlier fractions, 2,4-bis(2-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole was isolated as a syrup. The yield of this compound was 1.1 g with a yield ratio of 5.9%.

reactant | 2-dimethylaminobenzylchloride hydrochloride | 9.1 g | Cl.CN(C1=C(CCl)C=CC=C1)C
reactant | 5,5-dimethyl-2,4-dithiohydantoin | 7 g | CC1(C(NC(N1)=S)=S)C | C5H8N2S2
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2,4-bis(2-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole | CN(C1=C(CSC2=NC(C(=N2)SCC2=C(C=CC=C2)N(C)C)(C)C)C=CC=C1)C | C23H30N4S2
